US08058293B2
(2-fluoropyridin-3-yl)methyl methanesulfonate
To a solution of (2-fluoropyridin-3-yl)methanol (200 mg, 1.57 mmol) and triethylamine (658 μL, 4.72 mmol) in CH2Cl2 (10 mL) was added methanesulfonyl chloride (269 mg, 2.36 mmol). The reaction mixture was kept at 0° C. for 30 min., poured into water, and the mixture was extracted with CH2Cl2 (2×20 mL). The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The product was used without further purification.

reactant | (2-fluoropyridin-3-yl)methanol | 1.57 mmol, 200 mg | FC1=NC=CC=C1CO | C6H6FNO
reactant | triethylamine | 4.72 mmol, 658 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.36 mmol, 269 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2-fluoropyridin-3-yl)methyl methanesulfonate | CS(=O)(=O)OCC=1C(=NC=CC1)F | C7H8FNO3S
